US04338319
a. Preparation of 6-amino-1-ethyl-2,4-(1H,3H)-pyrimidinedione II
To a solution of 127.5 g (1.5 mol) cyanoacetic acid and 200 ml of acetic anhydride was added 120 g (1.36 mol) of ethylurea. The solution was stirred at 60°-70° C. for 2 hours. After cooling, white crystals were filtered off and washed with ethanol. Yield 153 g (74%) (I). This was stirred in 1 liter of hot water and 160 ml of 2 N NaOH was added in portions so the solution the whole time was basic. The reaction mixture was refluxed for 20 minutes and then neutralized with 5 N HCl. After cooling, white crystals were filtered off. Yield 100 g (65%) (II) NMR.

reactant | cyanoacetic acid | 1.5 mol, 127.5 g | C(#N)CC(=O)O | C3H3NO2
reactant | ethylurea | 1.36 mol, 120 g | C(C)NC(=O)N | C3H8N2O
reactant | acetic anhydride | 200 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 6-amino-1-ethyl-2,4-(1H,3H)-pyrimidinedione | NC1=CC(NC(N1CC)=O)=O | C6H9N3O2
